datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:8])([H:9])[H:10],76.5672
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[O:36][H:37]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][O:36][H:37],2.204968
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[C:7]([C:8]([O:9][O:10])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:10][O:9][C:8]([C:7]([H:11])([H:12])[H:13])([H:14])[H:15],127.31912
[C:0]([C:1]1([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0]([C:1]1[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([C:2]([H:9])([H:10])[H:11])([H:7])[H:8],157.3184
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:11][H:12],6.635824
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10].[O:6][O:7][H:12],125.932124
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]=[C:17]([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15](=[C:16]=[C:17]([H:19])[H:20])[H:18],26.3592
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:21](=[C:22]([H:24])[H:25])[H:23])[H:12])[H:11],11.0458
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][O:12][H:13]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:11][O:12][H:13],74.0568
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][O:13][O:12][C:11]([H:14])([H:15])[H:16],44.065888
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]([C:9](=[S:10])[H:13])([H:11])[H:12],94.5584
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:28])[H:14])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:26])[H:27])([H:23])([H:24])[H:25],66.944
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:14])[C:21]([C:20]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])[H:13])[H:12])([H:10])[H:11],36.4008
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([O:9][O:10])([H:11])([H:12])[H:13]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:10][O:9][C:8]([H:11])([H:12])[H:13],68.99416
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]([C:6]([C:7]([H:13])([H:14])[H:15])[C:8](=[C:9]([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5](=[C:4]([H:10])[H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:8](=[C:9]([H:17])[H:18])[H:16],72.9271
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:12])([H:4])([H:5])[H:6].[S:9]=[C:10][S:11][H:13],80.542
